US08471005B2
7-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-quinolin-2-one
Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.080 g, 0.21 mmol) and 7-Amino-3,4-dihydro-1H-quinolin-2-one (0.043 g, 0.27 mmol) were reacted in an analogous manner to Example 908D at 50° C. for 16 h. Upon completion, the product was triturated and washed with acetone. LC/MS: 386 (M+H); HPLC: 2.920 minutes, 99% purity, MP: 310-313° C. 1H NMR (400 MHz, CDCl3 , 6, ppm): 8.56 (s, 1H), 7.97 (d, J=8.6 Hz, 1H), 7.65 (dd, J=7.8, 8.3 Hz, 1H), 7.47 (s, 1H), 7.23-7.16 (m, 3H), 7.07 (d, J=8.0 Hz, 1H), 7.02 (s, 1H), 6.96 (d, J=5.9 Hz, 1H), 3.88 (s, 3H), 2.93 (t, 2H), 2.64 (t, 2H).

reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.21 mmol, 0.080 g | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | 7-Amino-3,4-dihydro-1H-quinolin-2-one | 0.27 mmol, 0.043 g | NC1=CC=C2CCC(NC2=C1)=O | C9H10N2O
product | 7-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-quinolin-2-one | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C1CCC(NC1=C2)=O | C22H19N5O2
